US07338959B2
(5-{[2-(4-Methanesulfonylmethyl-phenylamino)-pyrimidin-4-y]-methyl-amino}-1-methyl-1H-benzoimidazol-2-yl)-(4-methoxy-phenyl)-carbamic acid tert-butyl ester
To a solution of {5-[(2-Chloro-pyrimidin-4-yl)-methyl-amino]-1-methyl-1H-benzoimidazol-2-yl}-(4-methoxy-phenyl)-carbamic acid tert-butyl ester (100 mg, 0.20 mmol) and 4-[(methylsulfonyl)methyl]aniline (37 mg, 0.20 mmol) was added cat HCl and the reaction was heated to 70 C overnight. The reaction was neutralized with solid NaHCO3, filtered and concentrated. The crude material as purified through silica gel to give the title compound as a white solid. 1H NMR (300 MHz, d6-DMSO) δ 9.24 (s, 1H), 7.82 (d, J=6.0 Hz, 1H), 7.65-7.74 (m, 3H), 7.54 (d, J=1.5 Hz, 1H), 7.35 (d, J=8.7 Hz, 2H), 7.24 (dd, J=8.7 and 1.5 Hz, 1H), 7.18 (d, J=8.4 Hz, 2H), 6.94 (d, J=9.0 Hz, 2H), 5.72 (d, J=5.7 Hz, 1H), 4.32 (s, 2H), 3.78 (s, 3H), 3.74 (s, 3H), 3.46 (s, 3H), 2.84 (s, 3H), 1.41 (s, 9H). MS (ESI) m/z=644 [M+H]+.

reactant | {5-[(2-Chloro-pyrimidin-4-yl)-methyl-amino]-1-methyl-1H-benzoimidazol-2-yl}-(4-methoxy-phenyl)-carbamic acid tert-butyl ester | 0.20 mmol, 100 mg | C(C)(C)(C)OC(N(C1=CC=C(C=C1)OC)C1=NC2=C(N1C)C=CC(=C2)N(C)C2=NC(=NC=C2)Cl)=O | C25H27ClN6O3
reactant | 4-[(methylsulfonyl)methyl]aniline | 0.20 mmol, 37 mg | CS(=O)(=O)CC1=CC=C(N)C=C1 | C8H11NO2S
reactant | HCl | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | (5-{[2-(4-Methanesulfonylmethyl-phenylamino)-pyrimidin-4-y]-methyl-amino}-1-methyl-1H-benzoimidazol-2-yl)-(4-methoxy-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C1=CC=C(C=C1)OC)C1=NC2=C(N1C)C=CC(=C2)N(C)C2=NC(=NC=C2)NC2=CC=C(C=C2)CS(=O)(=O)C)=O | C33H37N7O5S
